US06417399B1
3. (2S,3S)-2-chloro-3-methyl valeric acid
To a cooled (0° C.) solution of L-Isoleucine (40 g) dissolved in HCl (5N, 750 ml) was added dropwise a solution of sodium nitrite (35 g in 100 ml water). The reaction was stirred overnight at room temperature (˜23° C.), Na2CO3 (31 g) slowly added and the reaction mixture extracted with EtOAc (3×150 ml). The combined organic extracts washed with water, half saturated brine, dried over MgSO4, filtered and concentrated. The product a yellowish oil was distilled under reduced pressure (5 torr, bp=111° C.) to afford a colorless oil (32 g) obtained in 70% yield. (see FIG. 6).

reactant | L-Isoleucine | 40 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | sodium nitrite | 100 ml, 35 g | N(=O)[O-].[Na+]
reactant | Na2CO3 | 31 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 5N, 750 ml | Cl | ClH
product | (2S,3S)-2-chloro-3-methyl valeric acid | 32 g, 70% yield | Cl[C@H](C(=O)O)[C@H](CC)C | C6H11ClO2
